US09353107B2
Step-ii: 3-(1-benzyl-1H-pyrazol-4-yl)-5-(6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(5-(3-(1-benzyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperazine-1-carboxylate (100 mg, 0.144 mmol) was deprotected in HCl in ether (8 ml) to afford 60 mg (66.1% yield) of the titled compound.

reactant | tert-butyl 4-(5-(3-(1-benzyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperazine-1-carboxylate | 0.144 mmol, 100 mg | C(C1=CC=CC=C1)N1N=CC(=C1)C1=CN(C2=NC=C(C=C21)C=2C=CC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=C(C)C=C2 | C38H39N7O4S
solvent | HCl | Cl | ClH
solvent | ether | 8 ml | CCOCC | C4H10O
product | 3-(1-benzyl-1H-pyrazol-4-yl)-5-(6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 60 mg, 66.1% yield | C(C1=CC=CC=C1)N1N=CC(=C1)C1=CN(C2=NC=C(C=C21)C=2C=NC(=CC2)N2CCNCC2)S(=O)(=O)C2=CC=C(C)C=C2 | C33H31N7O2S
